US08314112B2
Quinoline-3-boronic acid
To a solution of 3-bromoquinoline (Sigma-Aldrich, St. Louis, USA) (1 eq, 14.0 mmol, 1.94 ml) in toluene/THF (4:1, 25 ml), triisopropylborate (1.2 eq, 16.8 mmol, 3.94 ml) is added. The mixture is cooled to −40° C., then n-butyl lithium (1.6 M in THF, 1.2 eq, 17 mmol, 10.5 ml) is added within 30 min. After stirring for additional 30 min at this temperature, the cooling bath is removed and the reaction mixture is allowed to to warm up to −20° C. before quenching with aqueous HCl solution (2 N). The mixture is adjusted to pH 7 by using aqueous NaOH solution (4 N), then it is saturated with NaCl, and extracted with THF. The organic layer is concentrated in vacuo, and the resulting solid is recrystallized in MeCN yielding the title compound, [M+H]+=173.

reactant | 3-bromoquinoline | 14.0 mmol, 1.94 ml, 1 eq | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | triisopropylborate | 16.8 mmol, 3.94 ml, 1.2 eq | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | n-butyl lithium | 17 mmol, 1.6 M, 10.5 ml, 1.2 eq | C(CCC)[Li]
solvent | toluene THF | 25 ml | C1(=CC=CC=C1)C.C1CCOC1
product | Quinoline-3-boronic acid | N1=CC(=CC2=CC=CC=C12)B(O)O | C9H8BNO2
